US05198446
Preparation of N-{[dimethyl-(4-fluorobenzyl)silyl]methyl}piperidine hydrochloride
After adding 32.7 g of piperidine to a solution containing 32.5 g of chloromethyl-dimethyl-(4-fluorobenzyl)-silane in 40 ml of xylene, the reaction mixture is refluxed for 6 hours under stirring, then the precipitated piperidine hydrochloride is filtered at 20° C. and washed in 3 portions with a total of 60 ml of benzene. The filtration is combined with the benzene washings and washed in 3 portions with a total of 150 ml of water and the organic phase is dried over anhydrous magnesium sulfate. After filtering the drying agent, the filtrate is evaporated to solvent-free to give the crude name compound as an oily liquid in the base form in a yield of 40 g. This crude product is purified by distillation under reduced pressure to give the title compound in a yield of 36.8 g (92%) with a boiling point of 97°-98° C./0.5 torr.

reactant | piperidine | 32.7 g | N1CCCCC1 | C5H11N
reactant | chloromethyl-dimethyl-(4-fluorobenzyl)-silane | 32.5 g | ClC[Si](CC1=CC=C(C=C1)F)(C)C | C10H14ClFSi
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-{[dimethyl-(4-fluorobenzyl)silyl]methyl}piperidine hydrochloride | Cl.C[Si](CC1=CC=C(C=C1)F)(C)CN1CCCCC1 | InChI=1S/C15H24FNSi.ClH/c1-18(2,13-17-10-4-3-5-11-17)12-14-6-8-15(16)9-7-14;/h6-9H,3-5,10-13H2,1-2H3;1H
